US04182776
3-(4-chlorophenoxy)-1-propanol O-methanesulfonate
To a solution of 9.7 g of 3-(4-chlorophenoxy)-1-propanol and 10.5 g of triethylamine in 250 ml of dichloromethane chilled to -5° C. is added dropwise 6.7 g of methanesulfonyl chloride. After chilling and stirring for 1 hour, the mixture is washed with chilled 100 ml portions of water, 10% hydrochloric acid, saturated sodium bicarbonate, and saturated sodium chloride. The organic layer is dried (magnesium sulfate) and the solvent removed under vacuum to give the product as an oil which crystallizes on standing.

reactant | 3-(4-chlorophenoxy)-1-propanol | 9.7 g | ClC1=CC=C(OCCCO)C=C1 | C9H11ClO2
reactant | triethylamine | 10.5 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.7 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 3-(4-chlorophenoxy)-1-propanol O-methanesulfonate | CS(=O)(=O)OCCCOC1=CC=C(C=C1)Cl | C10H13ClO4S
